US05124457
4-Hydroxypiperidine (Aldrich) (5 g) was dissolved in distilled water (14 ml), cooled to 0° C. and the pH was adjusted to between 4 and 5 by addition of concentrated hydrochloric acid and 4-hydroxypiperidine. After warming to room temperature, 5.2 ml cyclohexanone and 3.3 g potassium cyanide in water (9 ml) were added sequentially. After 18 hours stirring at room temperature, the solid was filtered. The solid was dissolved in 100 ml methylene chloride, dried over Na2SO4, filtered and the solvent was removed in vacuo to yield pure 1-(1-cyanocyclohexyl)-4-hydroxypiperidine.

reactant | 4-Hydroxypiperidine | 5 g | OC1CCNCC1 | C5H11NO
reactant | hydrochloric acid | Cl | ClH
reactant | cyclohexanone | 5.2 ml | C1(CCCCC1)=O | C6H10O
reactant | potassium cyanide | 3.3 g | [C-]#N.[K+]
solvent | water | 14 ml | O | H2O
solvent | water | 9 ml | O | H2O
product | 1-(1-cyanocyclohexyl)-4-hydroxypiperidine | C(#N)C1(CCCCC1)N1CCC(CC1)O | C12H20N2O
